US07435751B2
Step 7: Preparation of (S)-[3-(7-fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-yl)-2-oxo-oxazolidin-5-ylmethyl]-carbamic acid methyl ester
Methyl chloroformate (0.038 ml, 0.480 mmol) is added dropwise to (R)-5-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-7-fluoro-1-propyl-1,3-dihydro-indol-2-one (0.135 g, 0.320 mmol) and diisopropylethylamine (0.235 ml, 1.28 mmol) in dichloromethane (3 ml) at 0° C. The reaction is stirred at 0° C. for 30 minutes and then allowed to warm at room temperature. The reaction mixture is diluted with dichloromethane, washed with water and brine, dried (Na2SO4) and evaporated. The residue is purified by PTLC (5% MeOH/DCM) to give the title compound as an off white solid. HPLC r.t. 4.40 min; 1H NMR (300 MHz, CDCl3) 7.30 (m, 1H), 7.21 (m, 1H), 5.10 (t, 1H), 4.77 (m, 1H), 4.02 (t, J=9 Hz, 1H), 3.77-3.82 (m, 3H), 3.68 (s, 3H), 3.57 (s, 2H), 3.49-3.63 (m, 2H), 1.69 (m, 2H), 0.95 (t, J=7.5 Hz, 3H); MS for C17H20F2N3O5 m/z 366.1 (M+H)+.

reactant | Methyl chloroformate | 0.480 mmol, 0.038 ml | ClC(=O)OC | C2H3ClO2
reactant | (R)-5-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-7-fluoro-1-propyl-1,3-dihydro-indol-2-one | 0.320 mmol, 0.135 g | NC[C@@H]1CN(C(O1)=O)C=1C=C2CC(N(C2=C(C1)F)CCC)=O | C15H18FN3O3
reactant | diisopropylethylamine | 1.28 mmol, 0.235 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (S)-[3-(7-fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-yl)-2-oxo-oxazolidin-5-ylmethyl]-carbamic acid methyl ester | COC(NC[C@H]1CN(C(O1)=O)C=1C=C2CC(N(C2=C(C1)F)CCC)=O)=O | C17H20FN3O5
